US08614206B2
To a solution of benzyl 4-oxoazepane-1-carboxylate (2.0 g, 8.08 mmol) in trifluoromethyltrimethylsilane (1.42 mL, 9.70 mmol) was added caesium fluoride (70.4 mg, 0.40 mmol). The reaction mixture was stirred at room temperature until complete consumption of trifluoromethyltrimethylsilane was observed by 19F NMR and quenched with a 1 M HCl solution (50 mL). The mixture was extracted with EtOAc (3×50 mL) and the combined organic layers were washed with brine (50 mL), separated, dried over MgSO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave benzyl 4-hydroxy-4-(trifluoromethyl)azepane-1-carboxylate as a yellow oil (1.48 g). To a solution of this oil (1.3 g, 4.1 mmol) in ethanol (20 mL) was added methylcyclohexadiene (4.6 mL) and 10% palladium on carbon (0.13 g). The reaction mixture was heated at reflux for 30 min before being cooled down to room temperature, filtered through Celite®, washed with MeOH and concentrated under reduced pressure. The residue was dissolved in DMSO (10 mL) and 5-chloro-1-methyl-4-nitro-1H-pyrazole (637 mg, 3.94 mmol) and potassium fluoride (916 mg, 15.76 mmol) were added. The reaction mixture was heated at 70° C. for 16 hr, quenched with water (50 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were washed with water (100 mL) and brine (100 mL), separated, dried over MgSO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)-4-(trifluoromethyl)azepan-4-ol as a yellow solid (1.06 g, 40% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.04 (s, 1H), 3.78 (s, 3H), 3.71 (ddd, J=14.7, 10.5, 2.0 Hz, 1H), 3.31 (dt, J=11.8, 4.4 Hz, 1H), 3.14 (td, J=11.3, 4.6 Hz, 1H), 3.06 (ddd, J=14.7, 5.7, 2.9 Hz, 1H), 2.31-2.13 (m, 1H), 2.14-1.94 (m, 5H), 1.92-1.83 (m, 1H).

reactant | benzyl 4-oxoazepane-1-carboxylate | 8.08 mmol, 2.0 g | O=C1CCN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
reactant | trifluoromethyltrimethylsilane | 9.70 mmol, 1.42 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
catalyst | caesium fluoride | 0.40 mmol, 70.4 mg | [F-].[Cs+]
product | benzyl 4-hydroxy-4-(trifluoromethyl)azepane-1-carboxylate | 1.48 g | OC1(CCN(CCC1)C(=O)OCC1=CC=CC=C1)C(F)(F)F | C15H18F3NO3
